US05891881
rac-1,2-Epoxy-3-octadecyloxypropane (2.0 g, 6.13 mmol) is added to a mixture of cytosine (1.0 g, 9.0 mmol) and anhydrous potassium carbonate (40 mg) in dimethyl formamide (25 mL) over a 30 minute period under a nitrogen atmosphere. The resultant mixture is stirred at 80°-90° C. (oil bath temperature) for 48 hours. The reaction mixture is cooled to room temperature and concentrated in vacuo to leave a residue. The residue is stirred with chloroform (50 mL). The undissolved material is filtered in vacuo, and the filtrate is concentrated in vacuo, purified by chromatography and dried in vacuo to afford 1.0 g (37%) of 1-[2'-hydroxy-3'-octadecyloxypropyl]-cytosine (CPR 1149): Thin-layer Chromatography (TLC; 4×8 cm silica gel 60, 0.25 mm thickness): 10:2:0.2 (v/v/v) CHCl3 -CH3OH-30% aqueous ammonia (Rf value=0.66); mp 153°-154° C.

reactant | rac-1,2-Epoxy-3-octadecyloxypropane | 6.13 mmol, 2.0 g | O1CC1COCCCCCCCCCCCCCCCCCC | C21H42O2
reactant | cytosine | 9.0 mmol, 1.0 g | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl formamide | 25 mL | CN(C=O)C | C3H7NO
product | 1-[2'-hydroxy-3'-octadecyloxypropyl]-cytosine | 1.0 g, 37% | OC(CN1C(=O)N=C(N)C=C1)COCCCCCCCCCCCCCCCCCC | C25H47N3O3
